US06908935B2
((1R)-1-Phenylpropyl){[4-methoxy-3-(4-methoxyphenyl)phenyl]methyl}amine
The title compound was prepared by the same procedure for (6,4′-dimethoxybiphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine from (R)-(+)-1-phenyl-propylamine (405 mg, 3.0 mmol, Lancaster Synthesis Ltd.), 6,4′-Dimethoxybiphenyl-3-carbaldehyde (242 mg, 1.0 mmol) and sodium cyanoborohydride (1.0 g, 16 mmol, Aldrich). The title compound was purified by column chromatography (silica gel, hexane/ethyl acetate 2/3) in form as white solid in 52% yield (187 mg, 0.52 mmol).

reactant | (6,4′-dimethoxybiphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C1=CC=NC2=CC=CC=C12 | C26H26N2O2
reactant | (R)-(+)-1-phenyl-propylamine | 3.0 mmol, 405 mg | C1(=CC=CC=C1)[C@@H](CC)N | C9H13N
reactant | 6,4′-Dimethoxybiphenyl-3-carbaldehyde | 1.0 mmol, 242 mg | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)C=O | C15H14O3
reactant | sodium cyanoborohydride | 16 mmol, 1.0 g | C(#N)[BH3-].[Na+]
product | ((1R)-1-Phenylpropyl){[4-methoxy-3-(4-methoxyphenyl)phenyl]methyl}amine | 52% yield | C1(=CC=CC=C1)[C@@H](CC)NCC1=CC(=C(C=C1)OC)C1=CC=C(C=C1)OC | C24H27NO2
